US09085555B2
{3-Chloro-5-[(2-dimethylamino-ethyl)-methyl-amino]-2-fluoro-benzyl}-carbamic acid tert-butyl ester
was prepared according to Scheme C1 (step A) from (5-bromo-3-chloro-2-fluoro-benzyl)-carbamic acid tert-butyl ester (300 mg, 0.89 mmol), N,N,N′-trimethyl-ethylenediamine (136 mg, 1.3 mmol), sodium tert-butoxide (170 mg, 1.8 mmol) and di-μ-bromobis(tri-tert-butylphosphino)dipalladium (I) [CAS 185812-86-6] (34 mg, 0.04 mmol). MS (LC-MS): 360.3 [M]+; tR (HPLC conditions c): 4.15 min.

reactant | (5-bromo-3-chloro-2-fluoro-benzyl)-carbamic acid tert-butyl ester | 0.89 mmol, 300 mg | C(C)(C)(C)OC(NCC1=C(C(=CC(=C1)Br)Cl)F)=O | C12H14BrClFNO2
reactant | N,N,N′-trimethyl-ethylenediamine | 1.3 mmol, 136 mg | CN(CCNC)C | C5H14N2
reactant | sodium tert-butoxide | 1.8 mmol, 170 mg | CC(C)([O-])C.[Na+]
product | {3-Chloro-5-[(2-dimethylamino-ethyl)-methyl-amino]-2-fluoro-benzyl}-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NCC1=C(C(=CC(=C1)N(C)CCN(C)C)Cl)F)=O | C17H27ClFN3O2
